datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:20])[H:21])([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])[H:7])([H:5])[H:6],81.0441
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]([S:10][H:12])[H:11]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:11])([H:4])([H:5])[H:6].[S:9][S:10][H:12],17.5728
[C:0](=[N:1][C:2]([H:4])([H:5])[H:6])[H:3]>>[C:0](#[N:1])[H:3].[C:2]([H:4])([H:5])[H:6],62.517328
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10](=[S:11])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8](=[C:9]([C:10]=[S:11])[H:14])([H:12])[H:13],85.3536
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:14])[H:13])([H:11])[H:12],73.0526
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],23.012
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15]([H:19])([H:20])[H:21])[C:16]([H:22])([H:23])[H:24])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13](=[C:12]([H:17])[H:18])[C:14]([C:15]([H:19])([H:20])[H:21])[C:16]([H:22])([H:23])[H:24])[H:5],35.1874
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],53.9736
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[O:24][O:25][H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:21][O:24][O:25][H:26],59.99856
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13][S:14][H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13](=[C:12]([H:15])[H:16])[S:14][H:17],-30.1248
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[C:38]([H:39])([H:40])[H:41]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14].[H:15][C:38]([H:39])([H:40])[H:41],22.92832
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][O:9],37.4848744
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([O:1][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9])([H:2])([H:3])[H:4].[H:5],177.51
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([S:7])([H:8])([H:9])[H:10]>>[C:0]([S:1][S:7][C:6]([H:8])([H:9])[H:10])([H:2])([H:3])[H:4].[H:5],85.6883
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[c:8]1([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],124.265
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([S:14][H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])([S:14][H:19])[H:18],-10.8784
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:10][O:22],24.618656
